US06071925
(RS)-3-Benzoyl-8-(5,8-dichloro-1,2,3,4-tetrahydro-naphthalen-2-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride (1:1)
The title compound, m.p. 220° C. dec. was prepared in accordance with the general method of example 4 from 8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one hydrochloride and benzoyl chloride.

reactant | 8-(5,8-dichloro-1,2,3,4-tetrahydro-2-naphthyl)-1-phenyl-1,3,8-triazaspiro[4.5]decan-4-one hydrochloride | Cl.ClC1=C2CCC(CC2=C(C=C1)Cl)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | benzoyl chloride | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | (RS)-3-Benzoyl-8-(5,8-dichloro-1,2,3,4-tetrahydro-naphthalen-2-yl)-1-phenyl-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C(C1=CC=CC=C1)(=O)N1CN(C2(C1=O)CCN(CC2)C2CC1=C(C=CC(=C1CC2)Cl)Cl)C2=CC=CC=C2 | InChI=1S/C30H29Cl2N3O2.ClH/c31-26-13-14-27(32)25-19-23(11-12-24(25)26)33-17-15-30(16-18-33)29(37)34(28(36)21-7-3-1-4-8-21)20-35(30)22-9-5-2-6-10-22;/h1-10,13-14,23H,11-12,15-20H2;1H
